US06680047B2
a) Preparation of Biotin Containing Microbubbles
To a mixture of phosphatidylserine (5 mg, Avanti) and biotin-DPPE (0.6 mg, Pierce) in a clean vial was added 5% propyleneglycol-glycerol in water (1 mL). The dispersion was heated to 80° C. for 5 minutes and then cooled to ambient temperature. The head space was then flushed with perfluorobutane and the vial shaken in a cap-mixer for 45 seconds. After centrifugation the infranatant was removed and the microbubbles formed washed extensively with water.

reactant | biotin DPPE | 0.6 mg | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12.CCN(CC)CCOC=1C=CC(=CC1)CC=2C=CC=CC2.Cl
reactant | propyleneglycol glycerol | C(C(C)O)O.OCC(O)CO
solvent | water | 1 mL | O | H2O
product | Biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
